US05608093
Phenylacetic acid;
2-methyl- or 3-methyl- or 4-methylphenylacetic acid, 4-tert-butylphenylacetic acid; 2-chloro- or 3-chloro- or 4-chlorophenylacetic acid; 2,6-dichloro- or 3,4-dichlorophenylacetic acid; 2-fluoro- or 3-fluoro- or 4-fluorophenylacetic acid; 2,6-difluorophenylacetic acid; 2-nitro- or 3-nitro- or 4-nitrophenylacetic acid; 2,4-dinitrophenylacetic acid; 2-methoxy- or 3-methoxy- or 4-methoxyphenylacetic acid; 4-benzyloxyphenylacetic acid; 3-chloro-4-methoxyphenylacetic acid; 3-bromo-4-methoxyphenylacetic acid; 3-nitro-4-methoxyphenylacetic acid; 3,4-dimethoxyphenylacetic acid; 2,3,4-trimethoxyphenylacetic acid; 3,4-methylenedioxyphenylacetic acid; 3,4-diethoxyphenylacetic acid; 4-biphenylacetic acid; 3-phenoxyphenylacetic acid; 2-acetamino- or 3-acetamino- or 4-acetaminophenylacetic acid; 3-(N)-BOC-aminophenylacetic acid; 4-formylaminophenylacetic acid; 4-N,N-dimethylaminophenylacetic acid;

reactant | 4-tert-butylphenylacetic acid | C(C)(C)(C)C1=CC=C(C=C1)CC(=O)O | C12H16O2
reactant | 2,6-difluorophenylacetic acid | FC1=C(C(=CC=C1)F)CC(=O)O | C8H6F2O2
reactant | 2,4-dinitrophenylacetic acid | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6N2O6
reactant | 4-benzyloxyphenylacetic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | 3-chloro-4-methoxyphenylacetic acid | ClC=1C=C(C=CC1OC)CC(=O)O | C9H9ClO3
reactant | 3-bromo-4-methoxyphenylacetic acid | BrC=1C=C(C=CC1OC)CC(=O)O | C9H9BrO3
reactant | 3-nitro-4-methoxyphenylacetic acid | [N+](=O)([O-])C=1C=C(C=CC1OC)CC(=O)O | C9H9NO5
reactant | 3,4-dimethoxyphenylacetic acid | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | 2,3,4-trimethoxyphenylacetic acid | COC1=C(C=CC(=C1OC)OC)CC(=O)O | C11H14O5
reactant | 3,4-methylenedioxyphenylacetic acid | C1OC=2C=C(C=CC2O1)CC(=O)O | C9H8O4
reactant | 3,4-diethoxyphenylacetic acid | C(C)OC=1C=C(C=CC1OCC)CC(=O)O | C12H16O4
reactant | 4-biphenylacetic acid | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | 3-phenoxyphenylacetic acid | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)O | C14H12O3
reactant | 4-formylaminophenylacetic acid | C(=O)NC1=CC=C(C=C1)CC(=O)O | C9H9NO3
reactant | 4-N,N-dimethylaminophenylacetic acid | CN(C)C1=CC=C(C=C1)CC(=O)O | C10H13NO2
product | Phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
